US05312831
N-[trans(4-pentylcyclohexyl)carbonyl]-D-allo-Threonine (2c-6)
A solution of trans-4-pentylcyclohexane carboxylic acid (198 mg, 1.0 mmol) in dry toluene (1 mL) is treated with oxalyl chloride (760 mg, 5.9 mmol) at 0° C. and the mixture is stirred for 2 h at the same temperature and 1 h at room temperature. Excess reagent is removed in vacuo. A solution of the crude acid chloride in dry acetonitrile (2 mL) is added to a mixture of D-allo-Thr (100 mg, 0.85 mmol), 2N aq. NaOH (600 μl, 1.20 meq) and TEA (85 mg, 0.85 mmol) in THF (1.5 mL), following the procedure described in Example 1. The crude product 2c-6 is purified by chromatography (1.5×18 cm column, 5% CH30H and 0.4% HOAc in CH2Cl2): NMR δ0.88 (t, J≃7, 3H), 4.15 (m, 1 H), 4.54 (m, 1H), 6.49 (d, 1H); MS (CI, CH4) m/z 300 (M+H).

reactant | trans-4-pentylcyclohexane carboxylic acid | 1.0 mmol, 198 mg | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | oxalyl chloride | 5.9 mmol, 760 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | D-allo-Thr | 0.85 mmol, 100 mg | N[C@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | NaOH | 2N, 600 μl, 1.20 meq | [OH-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-[trans(4-pentylcyclohexyl)carbonyl]-D-allo-Threonine | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)N[C@H]([C@H](O)C)C(=O)O | C16H29NO4
